US04182718
Preparation of Disodium 1,3-Dioxane-2,2-Dicarboxylate
Hydrolysis of 9.0 g (0.039 mol) of diethyl 1,3-dioxane-2,2-dicarboxylate with 6.8 g of 50% aqueous sodium hydroxide as described in Example 2 for the dioxolane analog yielded 8.4 g (0.04 mol) 98% of the title compound as a white free flowing solid.

reactant | diethyl 1,3-dioxane-2,2-dicarboxylate | 0.039 mol, 9.0 g | O1C(OCCC1)(C(=O)OCC)C(=O)OCC | C10H16O6
reactant | sodium hydroxide | 6.8 g | [OH-].[Na+]
reactant | dioxolane | O1COCC1 | C3H6O2
product | Disodium 1,3-Dioxane-2,2-Dicarboxylate | 0.04 mol, 8.4 g, 98% | O1C(OCCC1)(C(=O)[O-])C(=O)[O-].[Na+].[Na+] | InChI=1S/C6H8O6.2Na/c7-4(8)6(5(9)10)11-2-1-3-12-6;;/h1-3H2,(H,7,8)(H,9,10);;/q;2*+1/p-2
